US05011825
(c) Fmoc-Arg-Ile-OtBu
2.2 g of DCC are added, at 0° C., to a stirred solution of 2.23 g of H-Ile-OtBu.HCl, 4 g (10 mmol) of Fmoc-Arg-OH and 1.35 g of HOBt in 80 ml of dimethylformamide. The working-up is carried out in analogy to Example 2b.

reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Ile-OtBu.HCl | 2.23 g | N[C@@H]([C@@H](C)CC)C(=O)OC(C)(C)C.Cl
reactant | Fmoc-Arg-OH | 10 mmol, 4 g | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H24N4O4
reactant | HOBt | 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Fmoc-Arg-Ile-OtBu | N([C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OC(C)(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C31H43N5O5
